US06218397B1
Ethyl-butyl-[6-methoxy-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]amine
To 1 ml of methanol was added sodium (25 mg) and the mixture was stirred until all the sodium was dissolved completely. The resulting solution was treated with ethyl-butyl-[6-chloro-3-methylsulfanyl-1-(2,4,6trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine-4-yl]amine (100 mg, 0.21 mmol) and heated at reflux for 3 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give an oil residue. The oil residue was purified by silica gel column chromatography to give 73 mg of the title compound as a colorless oil. 1H NMR (CDCl3):0.96(t,3H), 1.35(t,3H), 1.42(m,2H), 1.71(m,2H), 2.63(s,3H), 3.74(dd,2H), 3.86(q,2H), 3.91(s,3H), 7.46(s,2H)ppm.

reactant | sodium | 25 mg | [Na] | Na
reactant | ethyl-butyl-[6-chloro-3-methylsulfanyl-1-(2,4,6trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine-4-yl]amine | 0.21 mmol, 100 mg | C(C)N(C1=C2C(=NC(=N1)Cl)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl)CCCC | C18H19Cl4N5S
reactant | methanol | 1 ml | CO | CH4O
product | Ethyl-butyl-[6-methoxy-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]amine | 73 mg | C(C)N(C1=C2C(=NC(=N1)OC)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl)CCCC | C19H22Cl3N5OS
